US07816371B2
c. (S)-2-(6-Chloro-1-oxo-5-(2-(4-(trifluoromethyl)phenyl)acetamido)isoquinolin-2(1H)-yl)propanamide
A mixture of (S)-2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propanamide (100.0 mg, 0.0003764 mol), 2-(4-(trifluoromethyl)phenyl)acetic acid (115.2 mg, 0.0005646 mol), N,N-diisopropylethylamine (163.9 μL, 0.0009409 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (357.8 mg, 0.0009409 mol) and N,N-dimethylfonnamide (2 mL, 0.02 mol) was stirred at 60° C. for 3 days. The reaction was only about 40% complete. The solvent was removed and the residue purified by preparative HPLC (reverse phase) to obtain the product as light yellow solid. MS m/z=452.1 (M+H). 1H NMR (400 MHz; DMSO-d6) δ10.21 (s, 1H), 8.15 (d, J=8.68 Hz, 1H), 7.74 (d, J=7.76 Hz, 2H), 7.66-7.58 (m, 4H), 7.49 (d, J=7.95 Hz, 1H), 7.25 (s, 1H), 6.43 (d, J=7.50 Hz, 1H), 5.47-5.42 (q, J=7.07 Hz, 1H), 3.90 (s, 2H), 1.53 (d, J=7.39 Hz, 3H).

reactant | (S)-2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propanamide | 0.0003764 mol, 100.0 mg | NC1=C2C=CN(C(C2=CC=C1Cl)=O)[C@H](C(=O)N)C | C12H12ClN3O2
reactant | 2-(4-(trifluoromethyl)phenyl)acetic acid | 0.0005646 mol, 115.2 mg | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | N,N-diisopropylethylamine | 0.0009409 mol, 163.9 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.0009409 mol, 357.8 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
product | (S)-2-(6-Chloro-1-oxo-5-(2-(4-(trifluoromethyl)phenyl)acetamido)isoquinolin-2(1H)-yl)propanamide | ClC=1C(=C2C=CN(C(C2=CC1)=O)[C@H](C(=O)N)C)NC(CC1=CC=C(C=C1)C(F)(F)F)=O | C21H17ClF3N3O3
